US05736534
4-(6-Bromo-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 88% yield from 6-bromo-indoline (1.1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. The HCl salt was generated from the purified free base according to a procedure analogous to that given in Example 2. (M.P. 245°-248° C.(dec); LC-MS: 386, 388 (MH+); anal. RP18-HPLC RT: 4.95 min.).

reactant | 6-bromo-indoline | 1.1 eq. | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | HCl | Cl | ClH
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Bromo-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline hydrochloride | 88% yield | Cl.BrC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C18H16BrN3O2.ClH/c1-23-16-8-13-14(9-17(16)24-2)20-10-21-18(13)22-6-5-11-3-4-12(19)7-15(11)22;/h3-4,7-10H,5-6H2,1-2H3;1H
